US07378417B2
5-(3-Chloro-4-trifluoromethyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide
The title compound was prepared from 5-(3-chloro-4-trifluoromethyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.15) and 3-sulfamoyl-phenylamine [commercially available] according to general procedure II. Brown solid. MS (ISP) 543.9 [(M−H)−]; mp 272° C.

reactant | 5-(3-chloro-4-trifluoromethyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)F)N=CC2C(=O)O | C15H7ClF5N3O2
reactant | 3-sulfamoyl-phenylamine | S(N)(=O)(=O)C=1C=C(C=CC1)N | C6H8N2O2S
product | 5-(3-Chloro-4-trifluoromethyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)Cl | C21H13ClF5N5O3S
